US07902356B2
2,2-Dimethylmorpholine hydrochloride
Dissolve 4-benzyl-2,2-dimethyl-morpholine (5.67 g, 27.6 mmol) in CH2Cl2 (50 mL) and add 1-chloroethyl chloroformate (4.60 mL, 42.2 mmol) while stirring at room temperature. After 4 h, concentrate the solution and treat the residue with MeOH (60 mL). Heat the mixture at 60° C. for 2 h, then concentrate again. Dissolve the residue in water (125 mL) and wash with tert-butyl methyl ether (125 mL). Concentrate the aqueous layer and dry the resulting residue at 80° C. under vacuum to give the title compound (3.91 g, 93%) as a white solid. 1H NMR (DMSO-d6, 400 MHz) δ 9.52 (2H, br s), 3.75 (2H, m), 2.89-2.96 (4H, m), 1.25 (6H, s).

reactant | 4-benzyl-2,2-dimethyl-morpholine | 27.6 mmol, 5.67 g | C(C1=CC=CC=C1)N1CC(OCC1)(C)C | C13H19NO
reactant | 1-chloroethyl chloroformate | 42.2 mmol, 4.60 mL | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 2,2-Dimethylmorpholine hydrochloride | 3.91 g, 93% | Cl.CC1(CNCCO1)C | InChI=1S/C6H13NO.ClH/c1-6(2)5-7-3-4-8-6;/h7H,3-5H2,1-2H3;1H
